US07423185B2
4′-{2-[(1S,2R)-2-Hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-2,3′,5′-trimethylbiphenyl-4-carboxylic acid (compound 3)
A mixture of 4-((1R,2S)-2-{2-[2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethylamino}-1-hydroxypropyl)phenol (0.02 g), 4-bromo-3-methylbenzoic acid (0.020 g), tetrakis(triphenylphosphine)palladium (0.0027 g), cesium fluoride (0.041 g), 1,4-dioxane (0.75 mL), ethanol (0.25 mL) and water (0.15 mL) was stirred at 100° C. overnight. After being cooled to room temperature, the reaction mixture was diluted with tetrahydrofuran (2.5 mL). The crude product was purified by SCX ion exchange column chromatography (Argonaut 1 g, preconditioning: tetrahydrofuran, washing solvent:tetrahydrofuran, eluent:2 mol/L ammonia in methanol), followed by reverse phase column chromatography (Shiseido Capcell Pak C18 ODS, 5 μm, 120 Å, 20×50 mm, linear gradient 0.1% aqueous formic acid/acetonitrile=90/10-60/40) to afford the title compound (0.0046 g) as a white amorphous. The structure and physical data were shown in table 1.

reactant | 4-((1R,2S)-2-{2-[2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethylamino}-1-hydroxypropyl)phenol | 0.02 g | CC1=C(OCCN[C@H]([C@H](O)C2=CC=C(C=C2)O)C)C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C25H36BNO5
reactant | 4-bromo-3-methylbenzoic acid | 0.020 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | cesium fluoride | 0.041 g | [F-].[Cs+]
reactant | 1,4-dioxane | 0.75 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.0027 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.15 mL | O | H2O
solvent | ethanol | 0.25 mL | C(C)O | C2H6O
product | 4′-{2-[(1S,2R)-2-Hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-2,3′,5′-trimethylbiphenyl-4-carboxylic acid | 0.0046 g | O[C@@H]([C@H](C)NCCOC1=C(C=C(C=C1C)C1=C(C=C(C=C1)C(=O)O)C)C)C1=CC=C(C=C1)O | C27H31NO5
